Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
codeine / Darvon
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ male with history of CAD (s/p coronary stenting ___ 
years ago, currently on plavix), HTN, HLD, lumbar stensosis who 
presents to ___ as a transfer from ___ after a fall at 
home. Patient states that he was feeling dizzy prior to the fall 
and possibly tripped on a bathroom rug.  He struck the
left side of his head. He denies any associated LOC. Patient 
initially presented to ___ and was then 
transferred to ___ for higher level of care when CT head 
revealed 7 mm hyperdensity in the left frontal lobe. Imaging 
also revealed evidence of left-sided facial fractures.  
Neurosurgery rec'd Keppra 500 BID for 7 days, Plastic Surgery 
was consulted for the
orbital fractures and recommended no surgical intervention.  

 
Past Medical History:
Past Medical History: CAD s/p cardiac stents ___ yrs ago, hx 
small
stroke (per pt) ___ yrs ago, Arthritis, HTN, HLD, lumbar 
stenosis,
DDD, hard of hearing with hearing aids

Past Surgical History: appendectomy and open cholecystectomy

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:

Vitals: AVSS
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist, small skin 
tear
above left orbit, left orbital ecchymosis present
CV: RRR, No M/G/R
PULM: non-labored respirations
ABD: Soft, nondistended, nontender
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: T: 98.5 PO BP: 162/75 HR: 50 RR: 18 O2: 93% RA 
GEN: A+Ox3, NAD
HEENT: Normocephalic, left medial subconjunctival hemorrhage, 
left periorbital ecchymosis, EMOI. 
CV: RRR
PULM: CTA b/l
ABD: soft, non-distended, non-tender to palpation 
EXT: wwp, no edema b/l.  ___ strength b/l UE and ___
 
Pertinent Results:
IMAGING:

___: CT ORBIT, SELLA & IAC W:

1. Nondisplaced fracture through the superior and medial walls 
of the left 
orbit with associated subperiosteal hematoma within the orbit. 
2. Nondisplaced fracture through the lateral wall of the left 
orbit. 
3. Prominent soft tissue swelling is seen over the forehead and 
left left 
orbit. 
4. Left nasal bone deformity, possibly acute. 
5. Foci of intraparenchymal and subarachnoid hemorrhage within 
the left 
frontal lobe. 

___: CXR:
1.  Retrocardiac opacity could represent atelectasis or 
pneumonia. 
2.  Mild pulmonary edema. 

LABS:

___ 06:03AM   GLUCOSE-100 UREA N-37* CREAT-1.8* SODIUM-143 
POTASSIUM-5.0 CHLORIDE-106 TOTAL CO2-23 ANION GAP-14
___ 06:03AM   CALCIUM-8.8 PHOSPHATE-3.3 MAGNESIUM-1.9
___ 06:03AM   WBC-8.5 RBC-3.42* HGB-10.1* HCT-31.3* MCV-92 
MCH-29.5 MCHC-32.3 RDW-14.4 RDWSD-47.8*
___ 06:03AM   PLT COUNT-174
___ 08:45PM   ___ PTT-29.0 ___
___ 06:40PM   GLUCOSE-121* UREA N-39* CREAT-1.8* SODIUM-142 
POTASSIUM-5.1 CHLORIDE-107 TOTAL CO2-21* ANION GAP-14
___ 06:40PM   WBC-9.7 RBC-3.67* HGB-10.8* HCT-33.8* MCV-92 
MCH-29.4 MCHC-32.0 RDW-14.3 RDWSD-48.2*
___ 06:40PM   NEUTS-77.9* LYMPHS-12.0* MONOS-5.9 EOS-3.3 
BASOS-0.4 IM ___ AbsNeut-7.52* AbsLymp-1.16* AbsMono-0.57 
AbsEos-0.32 AbsBaso-0.04
___ 06:40PM   PLT COUNT-202
 
Brief Hospital Course:
Mr. ___ is an ___ male with history of frequent 
falls, CAD (s/p coronary stenting ___ years ago, currently on 
plavix), HTN, HLD, lumbar stensosis who presented to ___ this 
admission as a transfer from ___ after a fall at
home.  At OSH, a CT head revealed a 7 mm hyperdensity in the 
left frontal lobe. Imaging also revealed evidence of left-sided 
facial fractures.  Neurosurgery recommended Keppra 500mg BID for 
7 days, holding anticoagulation for 7 days.  Plastic Surgery was 
consulted for the orbital fractures and recommended no surgical 
intervention.  Ophthalmology was consulted and performed a 
dilated left eye exam, and there were no signs of globe injury, 
optic nerve or muscle entrapment.  It was recommended that the 
patient adhere to sinus precautions x1 week and he may see his 
regular ophthalmologist in 1 week or sooner if he notices any 
change in vision or diplopia. 

Per the patient's HCP, the patient has undergone a thorough 
workup for history of falls.  While working with physical 
therapy, the patient had orthostatic hypotension but was 
mentating well and otherwise remained hemodynamically stable, as 
well as stable from a cardiopulmonary standpoint. Pain was 
managed with acetaminophen and the patient's home medication, 
oxycodone.  He tolerated a regular diet.  After working with 
Physical Therapy, it was recommended that the patient be 
discharged to rehab to continue his recovery.  

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating with assist, voiding without assistance, and pain was 
well controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 5 mg PO BID 
2. Clopidogrel 75 mg PO DAILY 
3. FLUoxetine 20 mg PO DAILY 
4. Gabapentin 300 mg PO QHS 
5. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
6. Loratadine 10 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Pravastatin 10 mg PO QPM 
9. TraZODone 50 mg PO QHS:PRN insomnia 
10. Docusate Sodium 100 mg PO BID 
11. OxyCODONE (Immediate Release) 10 mg PO Q8H 
12. tolterodine 4 mg oral DAILY 
13. melatonin 1 mg oral ASDIR 
14. iron 325 mg (65 mg iron) oral ASDIR 
15. Lidocaine 5% Patch 1 PTCH TD QPM 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q8H:PRN Pain - Mild  
2.  LevETIRAcetam 500 mg PO Q12H Duration: 7 Doses  
3.  Lidocaine 5% Patch 1 PTCH TD QPM 
apply for 12 hours and then remove and leave off for 12 hours  
4.  LOPERamide 2 mg PO QID:PRN loose stool  
5.  amLODIPine 5 mg PO DAILY  
6.  Docusate Sodium 100 mg PO BID  
7.  FLUoxetine 20 mg PO DAILY  
8.  Gabapentin 300 mg PO QHS  
9.  iron 325 mg (65 mg iron) oral ASDIR  
10.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
11.  Loratadine 10 mg PO DAILY  
12.  melatonin 1 mg oral ASDIR  
13.  Omeprazole 20 mg PO DAILY  
14.  OxyCODONE (Immediate Release) 10 mg PO Q8H 
Hold for somnolence, RR<14.  Patient may decline  
RX *oxycodone 10 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*9 Tablet Refills:*0 
15.  Pravastatin 10 mg PO QPM  
16.  tolterodine 4 mg oral DAILY  
17.  TraZODone 50 mg PO QHS:PRN insomnia  
18. HELD- Clopidogrel 75 mg PO DAILY  This medication was held. 
Do not restart Clopidogrel until ___

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
-Fall
-Small bifrontal contusions and subarachnoid hemorrhage  
-Left non-displaced orbital roof fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ after 
a fall and you sustained a mild internal head injury as well as 
a left orbital roof (top section of the bone near your eye) 
fracture.  You were evaluated by the Neurosurgery service for 
your head injury which was deemed stable.  You were started on a 
one week total course of a medication, called Keppra 
(Levetiracetam) to prevent seizures. Your home Plavix was also 
held. The Plastic Surgery service evaluated your left orbital 
roof fracture which will heal on its own.  Sinus precautions 
were recommended for one week.  The Ophalthomology service 
evaluated your left eye and there was no evidence of serious eye 
injury.  

You have worked with Physical Therapy and it is recommended that 
you be discharged to rehab to continue your recovery.  You are 
now ready for discharge, please note the following discharge 
instructions:

Return to the Emergency Department or see your own doctor right 
away if any problems develop, including the following:

• Persistent nausea or vomiting.
• Increasing confusion, drowsiness or any change in alertness.
• Loss of memory.
• Dizziness or fainting.
• Trouble walking or staggering.
• Worsening of headache or headache feels different.
• Trouble speaking or slurred speech.
• Convulsions or seizures. These are twitching or jerking 
movements of the eyes, arms, legs or body.
• A change in the size of one pupil (black part of your eye) as 
compared to the other eye.
• Weakness or numbness of an arm or leg.
• Stiff neck or fever.
• Blurry vision, double vision or other problems with your 
eyesight.
• Bleeding or clear liquid drainage from your ears or nose.
• Very sleepy (more than expected) or hard to wake up.
• Unusual sounds in the ear.
• Any new or increased symptoms

Please adhere to sinus precautions for the next 4 (four) days:

Sinus Precautions:

1. Take the prescribed medications as directed.

2. Do not forcefully spit for several days.

3. Do not smoke for several days.

4. Do not use straws for several days.

5. Do not forcefully blow your nose for at least 2 weeks, even 
though your sinus may feel “stuffy” or there may be some nasal 
drainage.

6. Try not to sneeze; it will cause undesired sinus pressure. If 
you must sneeze, keep your mouth open.

7. Eat only soft foods for several days, always trying to chew 
on the opposite side of your mouth.

8. Do not rinse vigorously for several days. GENTLE salt water 
swishes may be used. Slight bleeding from the nose is not 
uncommon for several days after the surgery. Please keep our 
office advised of any changes in your condition, especially if 
drainage or pain increases. It is important that you keep all 
future appointments until this condition has resolved.

 
Followup Instructions:
___